US06881736B1
i) Methyl (±)-3-[4-carboxy-1,3-oxazol-2-yl]-4-[4-[(tert-butyloxycarbonyl)oxy]phenyl]butanoate
A mixture of methyl (±)-3-[4-(benzyloxycarbonyl)-1,3-oxazol-2-yl]-4-[4-[(tert-butyloxycarbonyl)oxy]phenyl]butanoate (765 mg, 1.54 mmole) and 10% Pd/C (164 mg) in EtOH (20 mL) was deoxygenated (3×evacuation/N2 purge cycles) then was charged with H2 (50 psi). After 4 hr the H2 was removed and the mixture was filtered through a pad of celite®. The filtrate was concentrated to afford the title compound (659 mg, 100%) as a white solid: MS (ES) m/e 811 (2M+H)+.

reactant | methyl (±)-3-[4-(benzyloxycarbonyl)-1,3-oxazol-2-yl]-4-[4-[(tert-butyloxycarbonyl)oxy]phenyl]butanoate | 1.54 mmole, 765 mg | C(C1=CC=CC=C1)OC(=O)C=1N=C(OC1)C(CC(=O)OC)CC1=CC=C(C=C1)OC(=O)OC(C)(C)C | C27H29NO8
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 164 mg | [Pd] | Pd
product | Methyl (±)-3-[4-carboxy-1,3-oxazol-2-yl]-4-[4-[(tert-butyloxycarbonyl)oxy]phenyl]butanoate | 659 mg, 100% | C(=O)(O)C=1N=C(OC1)C(CC(=O)OC)CC1=CC=C(C=C1)OC(=O)OC(C)(C)C | C20H23NO8
